US04767858
2-(4-pyridylmethyl)thio-7-phenylpyrazolo [1,5-a]-1,3,5-triazine-4-one; 2-benzylthio-7-phenylpyrazolo [1,5-a]-1,3,5-triazine-4-one; 3-benzyl-2-methylthio-7-phenyl pyrazolo [1,5-a]-1,3,5-triazine-4-one 2-(2-enzimidazolyl methylthio)-7-phenylpyrazolo [1,5-a]-1,3,5-triazine-4-one; and 2-(4-imidazolylmethylthio)-7-phenylpyrazolo [1,5-a]-1,3,5-triazine-4-one are prepared in analogous fashion by making appropriate modifications of the above-described procedures.

reactant | 2-(4-pyridylmethyl)thio-7-phenylpyrazolo [1,5-a]-1,3,5-triazine-4-one | N1=CC=C(C=C1)CSC1=NC=2N(C(N1)=O)N=C(C2)C2=CC=CC=C2 | C17H13N5OS
reactant | 2-benzylthio-7-phenylpyrazolo [1,5-a]-1,3,5-triazine-4-one | C(C1=CC=CC=C1)SC1=NC=2N(C(N1)=O)N=C(C2)C2=CC=CC=C2 | C18H14N4OS
product | 2-(4-imidazolylmethylthio)-7-phenylpyrazolo [1,5-a]-1,3,5-triazine-4-one | N1C=NC(=C1)CSC1=NC=2N(C(N1)=O)N=C(C2)C2=CC=CC=C2 | C15H12N6OS
